US09126950B2
In a 25 ml 3-Neck RBF, tert-butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)(methyl)carbamate (0.88 g), 4-(2-((2-methoxyethoxy)methoxy)ethoxy)aniline (0.901 g), Cs2CO3 (1.21 g) and Xantphose (0.144 g) were added in degassed 1,4-dioxane (10 mL) and the reaction mixture was degassed under argon for 30 minutes. Palladium(II) acetate (0.055 g) was added to reaction mixture and again it was degassed for 30 minutes. The reaction mixture was heated to 80° C. and stirred for 3.5 h. The reaction was monitored on TLC using CHCl3: methanol (9.5:0.5) as mobile phase. After completion of the reaction, reaction mixture was allowed to cool at room temperature. The reaction mixture was poured into water and product was extracted with ethyl acetate (3×25 ml). Ethyl acetate layer was washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure. Crude material was purified by using Combiflash chromatography. Product was eluted with 2% methanol in CHCl3 to give 0.8 g of tert-butyl (3-((5-fluoro-2-((4-(2-((2-methoxyethoxy)methoxy)ethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)(methyl)carbamate. M+1=557.9.

reactant | tert-butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)(methyl)carbamate | 0.88 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)N(C(OC(C)(C)C)=O)C)F | C16H18ClFN4O2
reactant | 4-(2-((2-methoxyethoxy)methoxy)ethoxy)aniline | 0.901 g | COCCOCOCCOC1=CC=C(N)C=C1 | C12H19NO4
reactant | Cs2CO3 | 1.21 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (3-((5-fluoro-2-((4-(2-((2-methoxyethoxy)methoxy)ethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)(methyl)carbamate | 0.8 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOCOCCOC)NC=1C=C(C=CC1)N(C(OC(C)(C)C)=O)C | C28H36FN5O6
